US07776875B2
Preparation of Racemic (2′S,3S,4′R)-4′-[5-chloro-2-(2-methanesulfonylamino-1,1-dimethyl-2-oxo-ethoxy)-phenyl]-6-chloro-2′-(5-chloro-2-methoxy-phenyl)-spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
A solution of racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(1-hydroxycarbonyl-1-methyl-ethoxy)-phenyl]-2′-(5-chloro-2-methoxy-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (122 mg, 0.2 mmol) and CDI (65 mg, 0.4 mmol) in DMF (5 mL) was heated at 60° C. for 2 h. Then to this solution was added a mixture of methanesulfonamide (144 mg, 1.2 mmol) and NaH (48 mg, 60%, 1.2 mmol) in DMF (5 mL), which had been stirred for 3 h at room temperature. After the resulting mixture was stirred at room temperature for 1 h, it was poured into water (5 mL) and the aqueous solution was acidified to “PH” 2-3 by addition of concentrated hydrochloride acid. After the aqueous phase was extracted with EtOAc twice, the combined organic extracts were dried over anhydrous Na2SO4, concentrated and the residue was purified by flash column to give the title compound as a white solid (11 mg).

reactant | racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(1-hydroxycarbonyl-1-methyl-ethoxy)-phenyl]-2′-(5-chloro-2-methoxy-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 0.2 mmol, 122 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC(C)(C)C(=O)O)=O)C1=C(C=CC(=C1)Cl)OC)=O | C29H25Cl3N2O6
reactant | CDI | 0.4 mmol, 65 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | methanesulfonamide | 1.2 mmol, 144 mg | CS(=O)(=O)N | CH5NO2S
reactant | NaH | 1.2 mmol, 48 mg | [H-].[Na+]
reactant | hydrochloride | Cl | ClH
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 5 mL | O | H2O
product | Racemic (2′S,3S,4′R)-4′-[5-chloro-2-(2-methanesulfonylamino-1,1-dimethyl-2-oxo-ethoxy)-phenyl]-6-chloro-2′-(5-chloro-2-methoxy-phenyl)-spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 11 mg | ClC=1C=CC(=C(C1)C1C2(C(NC(C1)=O)C1=C(C=CC(=C1)Cl)OC)C(NC1=CC(=CC=C12)Cl)=O)OC(C(=O)NS(=O)(=O)C)(C)C | C30H28Cl3N3O7S
